US06187566B1
In this step, synthesis of an active ester of a binding enhancer is described, which can then be easily conjugated to both the photoreactive ligand and the linker. A solution of bisbenzimidazole (6 g, 0.01 mol) dicyclohexylcarbodiimide (0.05 mol) and succinic acid (0.01 mol) in 100 mL of chloroform is stirred overnight (18-24 hrs). During this time, a white precipitate is formed. The precipitate is filtered of and washed with chloroform (2×50 mL). The combined chloroform is concentrated under vacuum in a rotary evaporator and the residue purified by flash column chromatography. The fractions containing the product is combined and concentrated under vacuum in a rotary evaporate to afford bisbenzimide succinnate ester (80%) as a white solid.

reactant | bisbenzimidazole | 0.01 mol, 6 g | CN1CCN(CC1)C2=CC3=C(C=C2)N=C(N3)C4=CC5=C(C=C4)NC(=C6C=CC(=O)C=C6)N5 | C25H24N6O
reactant | succinic acid | 0.01 mol | C(CCC(=O)O)(=O)O | C4H6O4
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | bisbenzimide | 80% | CCOC1=CC=C(C=C1)C2=NC3=C(N2)C=C(C=C3)C4=NC5=C(N4)C=C(C=C5)N6CCN(CC6)C | C27H28N6O
